US07915443B2
tert-butyl 4-ethynylphenylcarbamate
A dry 25 mL flask was charged with 3-ethynyl-phenylamine (0.100 g, 0.855 mmol) and then THF (5 mL) was added. Di-tert-butyl dicarbonate (0.242 g, 1.11 mmol) was added to the THF solution followed by NEt3 (0.231 mL, 1.71 mL). The mixture was allowed to stir at 55° C. after which it was cooled to room temperature and extracted twice with EtOAc (˜10 mL), water (˜10 mL) and saturated aqueous NaHCO3. The combined organic extracts were dried over anhydrous Na2SO4(s) and then concentrated to give the title compound (0.15 g, 0.67 mmol, 78%).

reactant | 3-ethynyl-phenylamine | 0.855 mmol, 0.100 g | C(#C)C=1C=C(C=CC1)N | C8H7N
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | Di-tert-butyl dicarbonate | 1.11 mmol, 0.242 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NEt3 | 0.231 mL | CCN(CC)CC | C6H15N
product | tert-butyl 4-ethynylphenylcarbamate | 0.67 mmol, 0.15 g, 78% | C(#C)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C13H15NO2
